US08669234B2
(1-{6-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.10 g, 0.24 mmol), bis(pinacolato)diboron (0.073 g, 0.29 mmol), Palladium dichloride(dppf) (0.018 g, 0.024 mmol), and potassium acetate (0.071 g, 0.72 mmol) were suspended in 1,4-dioxane (1.2 mL) and degassed with argon for 30 minutes. The suspension was heated at 85° C. for 2 hours. The mixture was cooled, (1-{6-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.182 g, 0.346 mmol) and aqueous potassium phosphate (2M, 0.84 mL, 0.84 mmol) was added. The mixture was returned to heat for 16 hours at which time, Palladium(tetrakis)triphenylphosphine (0.014 g, 0.012 mmol) was added. The reaction was heated for an additional 4 hours. Upon completion, the crude reaction mixture was concentrated in vacuo and filtered through a Pd scavenging cartridge (Polymer Labs, PL-Guanidine MP SPE). The resulting slurry was diluted in DMF and purified by reverse phase HPLC (15-40% acetonitrile: water; 0.1% formic acid modifier), and lyophilized giving [1-(6-{5-[6-(4-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.048 g, 24%) as a white solid.

reactant | (1-{6-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.24 mmol, 0.10 g | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H27BrN4O3
reactant | bis(pinacolato)diboron | 0.29 mmol, 0.073 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.72 mmol, 0.071 g | C(C)(=O)[O-].[K+]
reactant | (1-{6-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.346 mmol, 0.182 g | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)Br)=O | C26H29BrN4O3
reactant | potassium phosphate | 0.84 mmol, 2M, 0.84 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | [1-(6-{5-[6-(4-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.048 g, 24% | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC2(CC2)C1)C(C(C(C)C)NC(=O)OC)=O)=O | C48H56N8O6
